US07842688B2
d) 4-(3-Methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde
The solution of 6.08 g of 6-hydroxymethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one and 300 ml of dichloromethane is admixed with 20.9 g of manganese dioxide and stirred over 8 hours. The reaction mixture is filtered and the filtrate is concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.59 (4:1 EtOAc-heptane); Rt=3.24.

reactant | 6-hydroxymethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one | 6.08 g | OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C13H17NO4
catalyst | manganese dioxide | 20.9 g | [O-2].[O-2].[Mn+4]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-(3-Methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde | COCCCN1C(COC2=C1C=C(C=C2)C=O)=O | C13H15NO4
